US05028738
A 3N aqueous solution of sodium hydroxide (20 ml; 60 mmoles) was slowly added to a solution of 6.60 g (30 mmoles) of p-isobutylphenylpyruvic acid and 10 ml of methyl iodide. After the addition, the mixture was stirred at room temperature for 4 hours, acidified with 1N hydrochloric acid, and extracted with 150 ml of ether. The ether layer was dried over magnesium sulfate, and the ether was evaporated under reduced pres-sure to give pale yellowish white crystals. The NMR spectrum of the crystals led to the determination that the crystals were nearly pure 2-oxo-3-(p-isobutylphenyl)butanoic acid (4.67 g; yield 67 %).

reactant | sodium hydroxide | 60 mmoles, 20 ml | [OH-].[Na+]
reactant | p-isobutylphenylpyruvic acid | 30 mmoles, 6.60 g | C(C(C)C)C1=CC=C(C=C1)CC(C(=O)O)=O | C13H16O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methyl iodide | 10 ml | CI | CH3I
product | 2-oxo-3-(p-isobutylphenyl)butanoic acid | 4.67 g, yield 67 % | O=C(C(=O)O)C(C)C1=CC=C(C=C1)CC(C)C | C14H18O3
